US07625908B2
N1-{(1S)-2-[(4-{[3-Chloro-4-(pyridin-2-ylmethoxy)phenyl]amino}quinazolin-5-yl)oxy]-1-methylethyl}-N2,N2-dimethylglycinamide
The procedure described in Example 1 was repeated using N,N-dimethylglycine and 5-{[(2S)-2-aminopropyl]oxy}-N-[3-chloro-4-(pyridin-2-ylmethoxy)phenyl]quinazolin-4-amine to give the title compound in 42% yield; NMR spectrum (DMSO-d6) 1.21 (d, 3H), 2.05 (s, 6H), 2.60-2.80 (m, 2H), 4.20-4.40 (m, 2H), 4.40-4.60 (m, 1H), 5.30 (s, 2H), 7.15 (m, 1H), 7.22 (m, 1H), 7.35 (m, 2H), 7.54 (m, 2H), 7.70 (t, 1H), 7.90 (t, 1H), 7.98 (m, 2H), 8.48 (s, 1H), 8.59 (d, 1H), 9.76 (s, 1H); Mass spectrum MH+ 521.4.

reactant | N,N-dimethylglycine | CN(CC(=O)O)C | C4H9NO2
reactant | 5-{[(2S)-2-aminopropyl]oxy}-N-[3-chloro-4-(pyridin-2-ylmethoxy)phenyl]quinazolin-4-amine | N[C@H](COC1=C2C(=NC=NC2=CC=C1)NC1=CC(=C(C=C1)OCC1=NC=CC=C1)Cl)C | C23H22ClN5O2
product | N1-{(1S)-2-[(4-{[3-Chloro-4-(pyridin-2-ylmethoxy)phenyl]amino}quinazolin-5-yl)oxy]-1-methylethyl}-N2,N2-dimethylglycinamide | 42% yield | ClC=1C=C(C=CC1OCC1=NC=CC=C1)NC1=NC=NC2=CC=CC(=C12)OC[C@H](C)NC(CN(C)C)=O | C27H29ClN6O3
